US07332495B2
A mixture of N-formyl piperazine 35.5 g (310 mmol), 2-chloro-1-phenylethanone (57.6 g, 372 mmol) and anhydrous K2CO3 (64.3 g, 465 mmol) in 320 ml of acetone was treated according to general preparation 1 to give 49 g of N-phenacyl piperazine dihydrochloride, yield 57%, mp 246-8° C. (dec). M+ 204.

reactant | N-formyl piperazine | 310 mmol, 35.5 g | C(=O)N1CCNCC1 | C5H10N2O
reactant | 2-chloro-1-phenylethanone | 372 mmol, 57.6 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | K2CO3 | 465 mmol, 64.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 320 ml | CC(=O)C | C3H6O
product | N-phenacyl piperazine dihydrochloride | 49 g, yield 57% | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1 | InChI=1S/C12H16N2O.2ClH/c15-12(11-4-2-1-3-5-11)10-14-8-6-13-7-9-14;;/h1-5,13H,6-10H2;2*1H
